US04659721
(a) Preparation of 2-[2-Hydroxy-3-[3-(1-piperidylmethyl)benzyloxy]propyl]-1H-isoindole-1,3-dione
A mixture of 10.25 g (0.05 mol) of 3-(1-piperidylmethyl)-benzyl alcohol and 10.15 g (0.05 mol) of N-(2,3-epoxypropyl)-phthalimide is stirred under nitrogen for 80 minutes at 130° C. The viscous resin obtained is chromatographed on silica gel, using methylene chloride/methanol 9:1. The main fraction yields 8.60 g (42%) of the title compound in the form of a light brown oil after concentration by evaporation.

reactant | 3-(1-piperidylmethyl)-benzyl alcohol | 0.05 mol, 10.25 g | N1(CCCCC1)CC=1C=C(CO)C=CC1 | C13H19NO
reactant | N-(2,3-epoxypropyl)-phthalimide | 0.05 mol, 10.15 g | O1C(CN2C(C=3C(C2=O)=CC=CC3)=O)C1 | C11H9NO3
product | 2-[2-Hydroxy-3-[3-(1-piperidylmethyl)benzyloxy]propyl]-1H-isoindole-1,3-dione | 8.60 g, 42% | OC(CN1C(C2=CC=CC=C2C1=O)=O)COCC1=CC(=CC=C1)CN1CCCCC1 | C24H28N2O4
